US05068356
N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-hexadecylsuccinimide
2-Hexadecylsuccinic anhydride (10.5 g, 31.3 mmol), 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide (9.2 g, 31.3 mmol) and 10 ml of toluene were combined and refluxed for one hour under a nitrogen atmosphere with the azeotropic removal of water. Solvent was then removed under vacuum as the mixture was warmed to about 130° C. After 20 minutes, the reaction mixture was cooled and the vacuum was removed. The resulting viscous yellow mass was further chilled in an acetone/dry ice bath causing the mass to harden for facile removal from the reaction vessel. About 19 g of a viscous yellow gum was obtained that solidified to a translucent white solid upon standing for several days at room temperature.

reactant | 2-Hexadecylsuccinic anhydride | 31.3 mmol, 10.5 g | C(CCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C20H36O3
reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide | 31.3 mmol, 9.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-hexadecylsuccinimide | 19 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN1C(C(CC1=O)CCCCCCCCCCCCCCCC)=O | C37H62N2O4
